US08835472B2
N-(4-Ethynylphenethyl)acetamide
To 2.20 g (7.30 mmol) N-(4-((tert-butyldimethylsilyl)ethynyl)phenethyl)acetamide (I56.1) in 30 mL DCM are added 2.24 g (8.03 mmol) TBAF*H2O and the mixture is stirred at r.t. over night. The mixture is washed with water (2×). The organic layer is dried with Na2SO4 and the solvent is removed in vacuo. The crude product is purified by column chromatography (silica gel, DCM/MeOH 10/0→20/1).

reactant | N-(4-((tert-butyldimethylsilyl)ethynyl)phenethyl)acetamide | 7.30 mmol, 2.20 g | [Si](C)(C)(C(C)(C)C)C#CC1=CC=C(CCNC(C)=O)C=C1 | C18H27NOSi
reactant | TBAF | 8.03 mmol, 2.24 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Ethynylphenethyl)acetamide | C(#C)C1=CC=C(CCNC(C)=O)C=C1 | C12H13NO
